US06469206B2
Disclosed is a process for the preparation of trifluoromethanesulfonic acid anhydride by the steps of (1) forming a mixed anhydride comprising a trifluoromethanesulfonyl acyl residue and a carboxyl residue by contacting trifluoromethanesulfonic acid or a derivative thereof with a carboxyl compound selected from ketene, dialkyl ketenes, carboxylic acids, and derivatives of carboxylic acids and (2) subjecting the mixed anhydride to reactive distillation wherein the mixed anhydride undergoes disproportionation to produce triflic anhydride and a higher boiling carboxylic acid anhydride.

reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | ketene | C=C=O | C2H2O
product | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
